US06593325B1
3,8-Diphenyl-1H-pyrido[2,3-d]pyridazin-2-one (40 mg), cesium carbonate (174 mg) and 3-(chloromethyl)-2-methyl-2H-[1,2,4]triazole (prepared using the conditions described in EP-A-0170073) (27 mg) were stirred together at room temperature in DMF (4 ml) under nitrogen overnight. Water (25 ml) was added and the resultant solution was washed with dichloromethane (3×25 ml). The combined organic washings were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel, eluting with 5% methanol in dichloromethane. The product was recrystallised froim diethyl ether/ethanol/ethyl acetate, yielding 3,8-diphenyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrido[2,3-d]pyridazine as a white solid (8 mg). Data for the title compound: m.p. 222-223° C. 1H NMR (400 MHz, CDCl3) δ3.62 (3H, s), 5.67 (2H, s), 7.48 (3H, m), 7.56 (3H, m), 7.63 (2H, m), 7.85 (1H, s), 8.13 (2H, m), 8.20 (1H, s), 9.49 (1H, s); MS (ES+) m/e 395 [MH]+.

reactant | 3,8-Diphenyl-1H-pyrido[2,3-d]pyridazin-2-one | 40 mg | C1(=CC=CC=C1)C1=CC=2C(=C(N=NC2)C2=CC=CC=C2)NC1=O | C19H13N3O
reactant | cesium carbonate | 174 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(chloromethyl)-2-methyl-2H-[1,2,4]triazole | ClCC=1N(N=CN1)C | C4H6ClN3
reactant | Water | 25 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3,8-diphenyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrido[2,3-d]pyridazine | 8 mg | C1(=CC=CC=C1)C1=CC=2C(=C(N=NC2)C2=CC=CC=C2)N=C1OCC=1N(N=CN1)C | C23H18N6O
